* Z:\home\ostoja\Petnica\PEKG\simulations\NCS_v2.asc
V1 LEVA_RUKA N012 SINE(-150m 2.5m 100)
V2 5V 0 5
R1 N010 N011 4.7k
R2 N014 N002 4.7k
R3 N014 N018 4.7k
R4 N010 N005 4.7k
R5 5V N023 47k
R6 0 N023 47k
R7 N012 N016 100k
R19 N021 DESNA_NOGA 100k
R28 N005 N006 {Rinf}
R29 N006 N017 10k
R30 N005 N015 51k
R31 N015 N018 51k
R32 N015 DESNA_NOGA 100k
V6 N016 N019 SINE(-150m 2.5m 100)
R33 N019 DESNA_RUKA 100k
V7 N016 N021 SINE(0 50m 50)
C1 N015 DESNA_NOGA 1n
XU5 DESNA_RUKA N017 5V 0 N018 LT1006
XU1 N023 N015 5V 0 DESNA_NOGA LT1006
XU2 N014 N010 5V 0 N011 LT1006
XU3 LEVA_RUKA N006 5V 0 N005 LT1006
XU4 N003 N001 5V 0 N002 LT1006
R8 N003 N005 100k
R9 N001 N018 100k
R10 N003 2.5V 100k
R11 N002 N001 100k
C4 2.5V N003 10µ
C5 N001 N002 10µ
R12 N008 N009 190k
XU6 N011 N008 5V 0 N009 LT1006
R13 N018 N017 {Rinf}
R14 N004 N007 10k
XU7 N013 N004 5V 0 N007 LT1006
V3 3.75V 0 3.75
R17 N013 N009 10k
R18 2.5V N013 10k
V4 1.25V 0 1.25
R15 2.5V N008 10k
R24 5V N022 20k
R25 0 N022 20k
R16 5V N004 20k
R20 2.5V N004 20k
XU9 N022 N020 5V 0 2.5V TL072
R21 2.5V N020 10k
C2 2.5V N020 10µ
R22 N027 N026 30k
R23 0 N026 10k
XU8 N026 N024 5V 0 N025 TL072
R26 N025 N024 100k
C3 N025 N024 10µ
V5 N027 0 SINE(5 1 1k)
R27 N024 0 100k
.tran 0 20m 0 0.5u
.lib "NCS2180X SPICE MODEL.MOD"
.param Rinf = 20k
* mora biti 2.5V
* kako bi bilo prostora
* za contact DC singal
.lib LTC.lib
.lib TL072.cir
.backanno
.end
